US08754054B2
To a solution of (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid (100 mg, 0.15 mmol) in THF (2 mL) was added 10% Pd/C and the reaction mixture was stirred at room temperature under hydrogen atmosphere for 4 h. The reaction mixture was filtered without exposure to air into another flask containing polystyrene-carbodiimide (260 mg, 0.29 mmol) and the mixture was stirred for 10 min. A solution of 1-hydroxybenzotriazole hydrate (40 mg, 22 mmol) in THF (1 mL) and methylamine (0.08 mL, 2.0 M solution in THF, 0.16 mmol) were added and the reaction mixture was stirred at room temperature under nitrogen for 4 h. The reaction was filtered through a micro filter and concentrated. The crude material was purified by preparative HPLC (10:90 acetonitrile/water to 60:40 acetonitrile/water with 0.05% TFA over 10 min, then isocratic) to afford (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-N,3-dimethyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide as a mixture of diastereomers (7.5 mg, 7%) and as a dark red solid: 1H NMR (500 MHz, CD3OD) δ 8.11 (s, 1H), 6.59 (s, 1H), 6.15 (s, 0.3H), 5.99 (s, 0.7H), 5.19-5.17 (m, 0.3H), 4.94 (s, 0.7H), 3.75 (s, 3H), 3.57 (s, 3H), 3.54 (s, 1H), 3.51 (s, 1H), 3.48-3.35 (m, 6H), 3.26-3.21 (m, 1H), 3.08 (t, J=9.0 Hz, 0.3H), 3.04 (t, J=9.0 Hz, 0.7H), 2.78 (s, 3H), 2.22 (s, 3H), 1.27 (d, J=9.0 Hz, 2H), 1.22 (d, J=6.5 Hz, 1H); MS (ESI+) m/z 697 (M+H); HPLC >99% (AUC), tR 10.63 min.

reactant | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid | 0.15 mmol, 100 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)O | C33H33NO15
reactant | 1-hydroxybenzotriazole hydrate | 22 mmol, 40 mg | O.ON1N=NC2=C1C=CC=C2
reactant | methylamine | 0.16 mmol, 2.0 M, 0.08 mL | CN | CH5N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-N,3-dimethyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)NC | C34H36N2O14
